US04663453
9-Bromo-6-(4-thiomorpholinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
A mixture of 7.88 g (0.025 mole) of 9-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one and 1200 ml of toluene was heated under nitrogen, with stirring, until a solution resulted. Then there was added 25.8 g (0.250 mole) of thiomorpholine, followed by 14.2 g (0.075 mole) of titanium tetrachloride. The mixture was heated under reflux for 3 hours, cooled to room temperature and treated with 500 ml of 2N sodium hydroxide solution. After stirring vigorously for 15 minutes, the layers were separated. The aqueous phase was extracted with 300 ml of toluene. The toluene layers were combined, washed once with 2N sodium hydroxide solution, twice with water, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was crystallized from 100 ml of hot methanol to give 8.8 g (88%) of product. Recrystallization from a hot solution of dichloromethane (50 ml, charcoal) to which methanol (100 ml) was added provided the analytical sample, mp 165°-167° C.

reactant | 9-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one | 0.025 mole, 7.88 g | BrC1=CC2=C(N3C4=C(C(N2)=O)C=CC=C4CC3)C=C1 | C15H11BrN2O
reactant | thiomorpholine | 0.250 mole, 25.8 g | N1CCSCC1 | C4H9NS
reactant | sodium hydroxide | 2N, 500 ml | [OH-].[Na+]
catalyst | titanium tetrachloride | 0.075 mole, 14.2 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | 9-Bromo-6-(4-thiomorpholinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 8.8 g, 88% | BrC1=CC2=C(N3C4=C(C(=N2)N2CCSCC2)C=CC=C4CC3)C=C1 | C19H18BrN3S
